US06114568
B) 3-Amino-8-oxabicyclo[3.2.1]octane-3-carboxylic acid benzyl ester hydrochloride
A two-phase mixture of 3-(benzhydrylideneamino)-8-oxabicyclo[3.2.1]octane-3-carboxylic acid benzyl ester (3.9 mmole) in aqueous 1N hydrochloric acid solution (100 mL) and diethyl ether (100 mL) is stirred at room temperature overnight. The aqueous layer is concentrated to provide the title compound.

reactant | 3-(benzhydrylideneamino)-8-oxabicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | 3.9 mmole | C(C1=CC=CC=C1)OC(=O)C1(CC2CCC(C1)O2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C28H27NO3
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-Amino-8-oxabicyclo[3.2.1]octane-3-carboxylic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)C1(CC2CCC(C1)O2)N | InChI=1S/C15H19NO3.ClH/c16-15(8-12-6-7-13(9-15)19-12)14(17)18-10-11-4-2-1-3-5-11;/h1-5,12-13H,6-10,16H2;1H
